US06495541B1
In a manner similar to that described for Example YY, 3-(2-bromo-phenyl)-propionic acid methyl ester (243 mg, 1.00 mmol), diboron pinacol ester (279 mg, 1.10 mmol), 1,1′-bis(diphenyl phosphino)ferrocene dichloropalladium (24 mg, 0.03 mmol), and potassium acetate (294 mg, 3.00 mmol), 2-Bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one (239 mg, 0.90 mmol), a second portion of 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium (24 mg, 0.03 mmol), and sodium carbonate (2.5 mL of a 2.0 M aqueous solution, 5.00 mmol) were reacted to yield 3-[2-(6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-2-yl)-phenyl]-propionic acid methyl ester, 92 mg (29%) as a beige solid: m.p. 201-201.5° C.; 1H NMR (300 MHz, d6-DMSO) δ2.43 (t, J=7.5 Hz, 2H), 2.68 (m, 2H), 2.86 (t, J=8.1 Hz, 2H) 3.38 (m, 2H), 3.47 (s, 3H), 7.20 (t, J=7.8 Hz, 1H), 7.37 (m, 4H), 7.52 (dd, J=7.8, 0.6 Hz, 1H), 7.70 (dd, J=7.5, 0.6 Hz, 1H), 8.04 (br t, 1H), 11.41 (br s, 1H). MS (FAB, MH+): 349. Anal. (C21H20N2O3.0.3 CHCl3) C, H, N.

reactant | 3-(2-bromo-phenyl)-propionic acid methyl ester | 1.00 mmol, 243 mg | COC(CCC1=C(C=CC=C1)Br)=O | C10H11BrO2
reactant | diboron pinacol ester | 1.10 mmol, 279 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.00 mmol, 294 mg | C(C)(=O)[O-].[K+]
reactant | 2-Bromo-3,4,5,6-tetrahydro-azepino[5,4,3-cd]indol-6-one | 0.90 mmol, 239 mg | BrC=1NC=2C=CC=C3C2C1CCNC3=O | C11H9BrN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-bis(diphenyl phosphino)ferrocene dichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[2-(6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-2-yl)-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=CC=C1)C=1NC=2C=CC=C3C2C1CCNC3=O)=O | C21H20N2O3
